US07989462B2
(2-Benzylamino-quinazolin-4-yl)-(4-methoxyphenyl)-methylamine
A solution of (2-chloro-quinazolin-4-yl)-(4-methoxyphenyl)-methylamine (150 mg, 0.5 mmol), benzyl amine (110 uL, 1.0 mmol) and triethyl amine (100 uL) in 5 mL of THF in a seal tube was heated overnight at 80° C. After cooling to room temperature the reaction mixture was diluted with 25 mL of ethyl acetate, washed with saturated NaHCO3, dried over anhydrous Na2SO4, filtered and concentrated. The crude was purified by column chromatography (35% ethyl acetate/hexane) to give the title compound (25 mg, 0.067 mmol, 13%). 1H NMR (CDCl3): 7.24-7.46 (m, 7H), 7.10 (m, 2H), 6.84-6.92 (m, 3H), 6.68 (ddd, J=8.1, 6.9, 1.5, 1H), 4.78 (d, J=6.5, 2H), 3.83 (s, 3H), 3.46 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxyphenyl)-methylamine | 0.5 mmol, 150 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | benzyl amine | 1.0 mmol, 110 uL | C(C1=CC=CC=C1)N | C7H9N
reactant | triethyl amine | 100 uL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (2-Benzylamino-quinazolin-4-yl)-(4-methoxyphenyl)-methylamine | 0.067 mmol, 25 mg, 13% | C(C1=CC=CC=C1)NC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C23H22N4O
